US05798359
Chloropyrazine (20.68 gram, 177 mmol) and [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride (41.08 gram, 77.8 mmol) in dry THF (1.5 liter) were mixed and stirred for 80 minutes in a flask (cooled with a water bath) under nitrogen. A solution of phenylmagnesium bromide (3M in Et2O) (103 ml, 309 mmol) was added slowly through a dropping funnel into the cooled brick-red slurry at room temperature under nitrogen over 3.5 hours. After stirring at room temperature overnight, TLC showed that the reaction was complete. 3N HCl (100 ml) was added slowly through a dropping funnel under nitrogen and the mixture was stirred for one hour. The THF layer was separated from the aqueous layer. The aqueous layer was adjusted to pH 12 with 6N NaOH and extracted with EtOAc (100 ml, 3×). The organic fractions (THF and EtOAc) were combined and dried over MgSO4, filtered and concentrated to give a solid. The product was purified by flash chromatography on 300 g of flash grade silica gel in 2.5% EtOAc/CH2Cl2 to give 10.79 gram (69 mmol, 39%) of 2-phenylpyrazine, m.p. 69°-70° C.; FAB mass [M+1]+ 157; Found, C, 76.55; H, 5.22; N, 17.71. Calcd. for C10H8N2, C, 76.90; H, 5.16;. N, 19.93.

reactant | Chloropyrazine | 177 mmol, 20.68 gram | ClC1=NC=CN=C1 | C4H3ClN2
reactant | phenylmagnesium bromide | 309 mmol, 3M, 103 ml | C1(=CC=CC=C1)[Mg]Br
reactant | HCl | 3N, 100 ml | Cl | ClH
solvent | THF | 1.5 liter | C1CCOC1 | C4H8O
catalyst | [1,2-bis(diphenylphosphino)ethane]nickel(II) chloride | 77.8 mmol, 41.08 gram | C1=CC=C(C=C1)P(CCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4.Cl[Ni]Cl
product | 2-phenylpyrazine | 69 mmol, 10.79 gram, 39% | C1(=CC=CC=C1)C1=NC=CN=C1 | C10H8N2
